US04588729
Preparation of 1-(2-methyl-4-chlorophenyl)-3-methyldihydrouracil (compound No. 9):
At first, 8.0 g (0.03 moles) of N-(2-methyl-4-chlorophenylcarbamoyl)-N-methyl-β-alanine was added to 250 ml of acetic anhydride, and the mixture was refluxed with heating for 2.5 hours. Acetic anhydride was removed therefrom by distillation under reduced pressure, and precipitated crystals were recrystallized from 60 ml of ethyl acetate and 150 ml of n-hexane, whereby 1.8 g of the desired compound was obtained as crystals having a melting point of 120° to 127° C. (yield: 24.1%).

reactant | N-(2-methyl-4-chlorophenylcarbamoyl)-N-methyl-β-alanine | 0.03 moles, 8.0 g | CC1=C(C=CC(=C1)Cl)NC(=O)N(CCC(=O)O)C | C12H15ClN2O3
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-methyl-4-chlorophenyl)-3-methyldihydrouracil | 1.8 g, yield: 24.1% | CC1=C(C=CC(=C1)Cl)N1C(=O)N(C(=O)CC1)C | C12H13ClN2O2
